### PR TITLE
[Merged by Bors] - refactor(CategoryTheory/Bicategory/Adjunction): definition of mates

### PR DESCRIPTION
**Pull request by joelriou**
The bijection `mateEquiv` is essentially redefined as a composition of two bijections. The proofs are a little bit simpler as the constructions of each of these two bijections is an easier task. This also allows to prove a lemma `mateEquiv_eq_iff` which shall be used in the construction of the 2-category of adjunctions in a bicategory #13539.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by emilyriehl** [comment]
Seems good!

File: Mathlib/CategoryTheory/Bicategory/Adjunction/Mate.lean [hunk 1]
```diff
@@ -65,58 +135,15 @@ Then we have a bijection between natural transformations `g ≫ l₂ ⟶ l₁ 
 
 Note that if one of the transformations is an iso, it does not imply the other is an iso.
 -/
-@[simps]
-def mateEquiv : (g ≫ l₂ ⟶ l₁ ≫ h) ≃ (r₁ ≫ g ⟶ h ≫ r₂) where
-  toFun α   := 𝟙 _ ⊗≫ r₁ ◁ g ◁ adj₂.unit ⊗≫ r₁ ◁ α ▷ r₂ ⊗≫ adj₁.counit ▷ h ▷ r₂ ⊗≫ 𝟙 _
-  invFun β  := 𝟙 _ ⊗≫ adj₁.unit ▷ g ▷ l₂ ⊗≫ l₁ ◁ β ▷ l₂ ⊗≫ l₁ ◁ h ◁ adj₂.counit ⊗≫ 𝟙 _
```
[the remark this answers is not in the document]
Comment (joelriou) [reply Mathlib/CategoryTheory/Bicategory/Adjunction/Mate.lean:71]: Thanks for the suggestion!

File: Mathlib/CategoryTheory/Bicategory/Adjunction/Mate.lean [hunk 2]
```diff
@@ -65,58 +135,27 @@ Then we have a bijection between natural transformations `g ≫ l₂ ⟶ l₁ 
...
+    mateEquiv adj₁ adj₂ α = β ↔
+    adj₁.homEquiv₁.symm β = adj₂.homEquiv₂ α ≫ (α_ _ _ _).hom := by
+  conv_lhs => rw [eq_comm, ← adj₁.homEquiv₁.symm.injective.eq_iff']
+  rw [mateEquiv_apply, Equiv.symm_apply_apply]
+
+lemma mateEquiv_apply' (α : g ≫ l₂ ⟶ l₁ ≫ h) :
+    mateEquiv adj₁ adj₂ α =
+    r₁ ◁ (𝟙 g ≫ ((ρ_ g).inv ≫ g ◁ adj₂.unit ≫ (α_ g l₂ r₂).inv ≫ α ▷ r₂) ≫ (α_ l₁ h r₂).hom) ≫
+    (α_ r₁ l₁ (h ≫ r₂)).inv ≫ adj₁.counit ▷ (h ≫ r₂) ≫ (λ_ (h ≫ r₂)).hom :=
+  rfl
```
Comment (yuma-mizuno) [inline Mathlib/CategoryTheory/Bicategory/Adjunction/Mate.lean:152]: Actually I'd prefer adding the following (non-defeq) lemma:
```lean
mateEquiv adj₁ adj₂ α = 𝟙 _ ⊗≫ r₁ ◁ g ◁ adj₂.unit ⊗≫ r₁ ◁ α ▷ r₂ ⊗≫ adj₁.counit ▷ h ▷ r₂ ⊗≫ 𝟙 _
```
where the expression is written so that we don't care about how the parentheses are placed or how the associators are inserted.

Comment (joelriou) [reply Mathlib/CategoryTheory/Bicategory/Adjunction/Mate.lean:152]: Actually, terms with `⊗≫` create issues in downstream applications because it may create timeouts. For example, in a branch dealing with pseudofunctors to the bicategory of adjunctions, I had to replace `compUnit` (from `Adjunction.Basic`) so that it contains explicit associators, etc. In the proofs of the API for general abstract bicategories, it does not matter how we write the RHS because `bicategory` would work anyway.

Comment (yuma-mizuno) [reply Mathlib/CategoryTheory/Bicategory/Adjunction/Mate.lean:152]: Ok, that looks good!
By the way, I'd like to look into timeout from `⊗≫`. Where can I find the branch for downstream applications?

**Review by yuma-mizuno — APPROVED** [review]
Thanks, it looks good to me.

File: Mathlib/CategoryTheory/Bicategory/Adjunction/Mate.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Bicategory/Adjunction/Mate.lean]: It seems I am no longer able to reproduce the timeouts... I have changed the lemmas so that they use `⊗≫` as you suggest, and I will ping you if timeouts issues reappear...

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
